US08748453B2
Preparation of (E)-ethyl 3-(4-acetamido-3-(2-methoxyethoxy)phenylamino)-2-cyanoacrylate
To N-(2-(2-methoxyethoxy)-4-nitrophenyl)acetamide (75 g, 0.295 mol, 1.00 equiv) was added methanol (600 ml), 10% Pd/C (6 g), and glacial acetic acid (60 ml) in a vessel which subject to a closed pressure vessel. Replacement of Kettle access from air to 5 atm hydrogen at room temperature was deployed and reacted for 5 hours. The reaction mixture was filtered, and concentrated. Toluene (440 ml), THF (220 ml), and (E)-ethyl 2-cyano-3-ethoxyacrylate (76 g, 0.497 mol, 1.68 equiv) were added and then refluxed for 16 h. The reaction mixture was cooled to room temperature, filtered, washed and dried with tetrahydrofuran to give 77 g product as off-white solid. MS (ESI) m/z: 347 (M+1).

reactant | N-(2-(2-methoxyethoxy)-4-nitrophenyl)acetamide | 0.295 mol, 75 g, 1.00 equiv | COCCOC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C11H14N2O5
reactant | methanol | 600 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | (E)-ethyl 2-cyano-3-ethoxyacrylate | 0.497 mol, 76 g, 1.68 equiv | C(#N)/C(/C(=O)OCC)=C\OCC | C8H11NO3
catalyst | Pd/C | 6 g | [Pd] | Pd
solvent | THF | 220 ml | C1CCOC1 | C4H8O
solvent | Toluene | 440 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | (E)-ethyl 3-(4-acetamido-3-(2-methoxyethoxy)phenylamino)-2-cyanoacrylate | 77 g | C(C)(=O)NC1=C(C=C(C=C1)N/C=C(/C(=O)OCC)\C#N)OCCOC | C17H21N3O5
